US08357717B2
Stage 2: (1-(4-Methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)methanol
Lithium borohydride (0.232 g, 0.0107 mol) was added at 0° C., under argon, to a solution of methyl 1-(4-methoxy-2,6-dimethylphenylsulfonyl)indoline-6-carboxylate (1 g, 0.0027 mol) in dry THF (30 ml), and the resulting reaction mixture was refluxed for 2 h. The solvent was removed in vacuo, water was added to the residue, and extraction with ethyl acetate was carried out. The organic phase was washed with water and saturated sodium chloride solution, then dried (Na2SO4) and concentrated in vacuo. The resulting crude product was used in the next stage without further purification. Yield: 0.9 g (97%).

reactant | Lithium borohydride | 0.0107 mol, 0.232 g | [BH4-].[Li+]
reactant | methyl 1-(4-methoxy-2,6-dimethylphenylsulfonyl)indoline-6-carboxylate | 0.0027 mol, 1 g | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)OC)C | C19H21NO5S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (1-(4-Methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)methanol | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)CO)C | C18H21NO4S
